US09403798B2
tert-Butyl 6,6-difluoro-4-phenyl-1,4-diazepane-1-carboxylate
To a toluene solution (2.0 mL) of 1-fluoro-4-iodobenzene (62.6 mg, 0.282 mmol), tert-butyl 6,6-difluoro-1,4-diazepane-1-carboxylate (100 mg, 0.423 mmol), cesium carbonate (184 mg, 0.564 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (23.3 mg, 0.0423 mmol), and palladium acetate (II) (6.30 mg, 0.0282 mmol) were added and the resultant mixture was stirred under nitrogen atmosphere at 110° C. for 4 hours. After completion of the reaction, the reaction solution was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain a compound (10.2 mg, yield 11%) in Reference Synthesis Example 260 and a compound (6.30 mg, yield 7%) in Reference Synthesis Example 261 as the title compounds.

reactant | 1-fluoro-4-iodobenzene | 0.282 mmol, 62.6 mg | FC1=CC=C(C=C1)I | C6H4FI
reactant | tert-butyl 6,6-difluoro-1,4-diazepane-1-carboxylate | 0.423 mmol, 100 mg | FC1(CNCCN(C1)C(=O)OC(C)(C)C)F | C10H18F2N2O2
reactant | cesium carbonate | 0.564 mmol, 184 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0423 mmol, 23.3 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | copper acetate | 0.0282 mmol, 6.30 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 6,6-difluoro-4-phenyl-1,4-diazepane-1-carboxylate | 10.2 mg, yield 11% | FC1(CN(CCN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)F | C16H22F2N2O2
